US04579847
N-(9-oxo-1,2,3,9-tetrahydro-pyrrolo[2,1-b]quinazolin-6-yl)-amino-oxoacetic acid, ethyl ester, m.p. 198°-200° C. (1.2 g) was reacted with benzaldehyde (0.84 g) in methanol (20 ml), in the presence of sodium methoxide (0.86 g) under stirring at 60° C. for 6 hours. After cooling the reaction mixture was concentrated in vacuo and diluted with ethyl ether: the precipitate was filtered, washed with ether and dissolved in water. Acidification with acetic acid gave a precipitate which was filtered and washed with water: crystallization from formic acid gave 0.4 g of N-(3-benzylidene-9-oxo-1,2,3,9-tetrahydro-pyrrolo[2,1-b]quinazolin-6-yl)-amino-oxoacetic acid, m.p. 220°-225° C.

reactant | N-(9-oxo-1,2,3,9-tetrahydro-pyrrolo[2,1-b]quinazolin-6-yl)-amino-oxoacetic acid, ethyl ester | O=C1N2C(=NC=3C=C(C=CC13)NC(C(=O)OCC)=O)CCC2 | C15H15N3O4
reactant | benzaldehyde | 0.84 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium methoxide | 0.86 g | C[O-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | N-(3-benzylidene-9-oxo-1,2,3,9-tetrahydro-pyrrolo[2,1-b]quinazolin-6-yl)-amino-oxoacetic acid | 0.4 g | C(C1=CC=CC=C1)=C1CCN2C1=NC=1C=C(C=CC1C2=O)NC(C(=O)O)=O | C20H15N3O4
